US04239688
N-Chloroacetyl-N-(N'-Methylenepyrrolidonyl)-2-Butylmercaptoaniline
2-Butylmercaptoaniline was prepared from -2-nitrothiophenol by a two-step reaction sequence consisting of alkylation followed by reduction corresponding to the procedure described in Example 4. The aniline then was condensed with N-methylolpyrrolidone, followed by reaction with chloroacetyl chloride to yield the desired product.

reactant | 2-nitrothiophenol | [N+](=O)([O-])C1=C(C=CC=C1)S | C6H5NO2S
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | N-methylolpyrrolidone | C(O)N1C(CCC1)=O | C5H9NO2
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 2-Butylmercaptoaniline | C(CCC)SC1=C(N)C=CC=C1 | C10H15NS
